US09403810B2
Step 5: N-(2-Cyclohexyl-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)-5-(1-hydroxybut-3-en-1-yl)-4-methylisoxazole-3-carboxamide
A solution of N-(2-cyclohexyl-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)-5-formyl-4-methylisoxazole-3-carboxamide (53 mg, 0.153 mmol) in THF (1.5 mL) was cooled to 0° C. and 1M allylmagnesium bromide in Et2O (337 μl, 0.337 mmol) was added dropwise over 15 mins. The reaction mixture was warmed to room temperature and saturated NH4Cl (aq) was added. The aqueous layer was extracted with DCM (×3). The combined organic extracts were passed through a phase separating cartridge and the organic solvent was removed under reduced pressure. The crude material was adsorbed onto silica and purification by chromatography eluting with 50-100% EtOAc in iso-hexane afforded the title compound.

reactant | N-(2-cyclohexyl-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)-5-formyl-4-methylisoxazole-3-carboxamide | 0.153 mmol, 53 mg | C1(CCCCC1)N1N(C(=C(C1=O)NC(=O)C1=NOC(=C1C)C=O)C)C | C17H22N4O4
reactant | allylmagnesium bromide | 1M | C(C=C)[Mg]Br
reactant | Et2O | 0.337 mmol, 337 μl | CCOCC | C4H10O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | N-(2-Cyclohexyl-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)-5-(1-hydroxybut-3-en-1-yl)-4-methylisoxazole-3-carboxamide | C1(CCCCC1)N1N(C(=C(C1=O)NC(=O)C1=NOC(=C1C)C(CC=C)O)C)C | C20H28N4O4
